US06218547B1
3-(1-(t-butoxycarbonyl)piperazin-4-yl)aniline (2g):
A mixture of tert-butyl 1-piperazinecarboxylate (4 g, 21.5 mmol) and 3-fluoronitrobenzene (2.3 ml, 21.5 mmol) in anhydrous NMP (5 ml) was heated to 120° C. for 3 days. After cooling water (25 ml) was added and the mixture was extracted with ethyl acetate (2×10 ml). The organic extract was dried over sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by column-chromatography using successively petroleum ether and a mixture of ethyl acetate and petroleum ether (1:1 v/v) as the eluents. Yield of t-butyl 4-(3-nitrophenyl)-1-piperazinecarboxylate: 1.34 g (20%). This intermediate was quantitatively hydrogenated to 2g in ethanol at ambient pressure using Pd (5% on activated carbon) as the catalyst.

reactant | tert-butyl 1-piperazinecarboxylate | 21.5 mmol, 4 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 3-fluoronitrobenzene | 21.5 mmol, 2.3 ml | FC=1C=C(C=CC1)[N+](=O)[O-] | C6H4FNO2
reactant | water | 25 ml | O | H2O
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | 3-(1-(t-butoxycarbonyl)piperazin-4-yl)aniline | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=C(N)C=CC1 | C15H23N3O2
